* Debug op
.lib "/opt/sky130_pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
* Parametric DC Analysis for proc_60ead0d5acaa_cascode_amplifier
.options compat=ps
.options reltol=1e-3 gmin=1e-12 scale=1u
.lib "/opt/sky130_pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.temp 27

* Sky130 DRC Safe Clamps
.func clampW(x) = {max(0.42u, min(x, 50u))}
.func clampL(x) = {max(0.15u, min(x, 5u))}

* Computed Parameters
.param vbias_p = 0.7
.param vbias_n = 1.1
.param i_tail = 20.0
.param l_cascode = {clampL(0.5)}
.param l_diff = {clampL(0.5)}
.param w_bias = {clampW(2.0)}
.param w_load = {clampW(20.0)}
.param w_cascode = {clampW(5.0)}
.param w_diff = {clampW(10.0)}
.param i_tail_A = 1.9999999999999998e-05

* Circuit Implementation
* Sky130 Telescopic Cascode OTA
* Generator: cascode_amplifier.py
* @AC_SOURCE: Vin_p
* @AC_EXPR: vdb(vout)
* @TRAN_EXPR: v(vout)
* @DC_EXPR: v(vout)

* -----------------------------------------------------------------------
* Supply & Bias
* -----------------------------------------------------------------------
Vdd vdd 0 1.8
Vbias_n vbias_n 0 1.1
Vbias_p vbias_p 0 0.7

* -----------------------------------------------------------------------
* Differential input
* Vin_p has DC for sweep, Pulse for TRAN, and AC for Bode.
* -----------------------------------------------------------------------
Vin_p vin_p 0 DC 0.9 pulse(0.89 0.91 1u 100n 100n 2u 5u) AC 0.5
Vin_n vin_n 0 DC 0.9 AC -0.5

* -----------------------------------------------------------------------
* Tail current source
* -----------------------------------------------------------------------
Ibias_tail tail 0 DC 20.0u

* -----------------------------------------------------------------------
* Telescopic Cascode OTA Implementation
* -----------------------------------------------------------------------

* NMOS input differential pair (Transconductance)
XM1 node1 vin_n tail 0 sky130_fd_pr__nfet_01v8 w=10.0 l=0.5
XM2 node2 vin_p tail 0 sky130_fd_pr__nfet_01v8 w=10.0 l=0.5

* NMOS cascode devices (Increase output impedance)
XM3 out_n vbias_n node1 0 sky130_fd_pr__nfet_01v8 w=5.0 l=0.5
XM4 vout  vbias_n node2 0 sky130_fd_pr__nfet_01v8 w=5.0 l=0.5

* PMOS cascode devices (Increase output impedance)
XM7 out_n vbias_p cm_n vdd sky130_fd_pr__pfet_01v8 w=20.0 l=0.5
XM8 vout  vbias_p v_load_p vdd sky130_fd_pr__pfet_01v8 w=20.0 l=0.5

* PMOS active-load current mirror (High-side load)
XM5 cm_n     cm_n vdd vdd sky130_fd_pr__pfet_01v8 w=20.0 l=0.5
XM6 v_load_p cm_n vdd vdd sky130_fd_pr__pfet_01v8 w=20.0 l=0.5

* Output load capacitor
CL vout 0 0.5p

* -----------------------------------------------------------------------
* Analyses
* -----------------------------------------------------------------------

* DC Sweep Analysis (Extracted)


set ngbehavior=hs
set filetype=ascii
run
wrdata proc_60ead0d5acaa_dc_sweep.csv v(vout)


.op
.control
run
print all
.endc
.end
