* Sky130 NMOS Current Mirror (AI-Driven Design)
.title Current Mirror - Automated Parametric Generation

* ========== SKY130 PDK MODELS ==========
.include /opt/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* ========== SUPPLY PINS ==========
Vdd vdd 0 DC 1.8

* ========== REFERENCE BRANCH ==========
* Controlled current source for reference
Iref vdd ref 1e-05

* M1: Diode-connected NMOS (reference leg)
* Using sky130_fd_pr__nfet_01v8 from PDK
* W/L = 2.0u/0.5u, multiplicity = 1
M1 ref ref 0 0 sky130_fd_pr__nfet_01v8 W=2.0u L=0.5u NFIN=1 M=1

* ========== MIRROR BRANCH ==========
* M2: Output NMOS (with mirror ratio)
* W/L = 2.0u/0.5u
M2 iout ref 0 0 sky130_fd_pr__nfet_01v8 W=2.0u L=0.5u NFIN=1 M=1

* ========== LOAD ==========
* Load resistor to complete circuit
Rload vdd iout 10k

* ========== ANALYSIS ==========
.control
* Operating point
op

* DC analysis: sweep supply
dc Vdd 0 1.8 0.01

* AC analysis
ac dec 10 1 1G

* Transient analysis
tran 0 100n 0 1n

* Print key nodes
print all

* Save raw file
set wr_singlescale
set wr_vecnames
option numdgt=6
quit
.endc

.end
