* Current Mirror Circuit
.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* Supply
Vdd vdd 0 DC 1.8

* Reference current source
Iref vdd ref 1.2e-05

* Sky130 NMOS devices (placeholder - actual model would be loaded from PDK)
* M1 (reference, diode-connected)
M1 ref ref 0 0 nfet_01v8 W=2.0u L=0.5u NF=1

* M2 (mirror output)
M2 out ref 0 0 nfet_01v8 W=2.0u L=0.5u NF=1

* Load resistor
Rload vdd out 1k

* Analysis
.op
.dc Vdd 0 1.8 0.1
.ac dec 10 1 1G

.control
run
set wr_singlescale
set wr_vecnames
option numdgt=6
print all
quit
.endc

.end
