* Sky130 Current Mirror
* Sky130 NMOS Current Mirror
* Reference Current: 10.00 μA
* Mirror Ratio: 1:1

.lib /opt/sky130_pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* Supply
Vdd vdd 0 DC 1.8

* Reference current source
Iref vdd ref 1e-05

* Sky130 NMOS transistors
X1 ref ref 0 0 sky130_fd_pr__nfet_01v8 w=2.0 l=0.5 nf=1 mult=1
X2 out ref 0 0 sky130_fd_pr__nfet_01v8 w=2.0 l=0.5 nf=1 mult=1

* Load resistor to measure output current
Rload out 0 1k

* Operating point analysis
.op

* DC sweep for characterization
.dc Vdd 0 1.8 0.1

* AC analysis  
.ac dec 10 1 1G

.control
run

* Operating point results
echo "━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━"
echo "  Sky130 Current Mirror - Operating Point"
echo "━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━━"
print all

* Calculate currents
let iref_actual = @m.x1.msky130_fd_pr__nfet_01v8[id]
let iout_actual = @m.x2.msky130_fd_pr__nfet_01v8[id]
let mirror_error = (iout_actual - iref_actual*1)/(iref_actual*1)*100

echo ""
echo "Reference Current (M1): " iref_actual "A"
echo "Output Current (M2):    " iout_actual "A"
echo "Expected Iout:          " iref_actual*1 "A"
echo "Mirror Error:           " mirror_error "%"
echo ""

* Calculate output resistance
let rout = 1/@m.x2.msky130_fd_pr__nfet_01v8[gds]
echo "Output Resistance:      " rout "Ω"

* Save results
set wr_singlescale
set wr_vecnames
option numdgt=3
wrdata sky130_cm_results.csv iref_actual iout_actual

quit
.endc

.end
